US04454320
n-Butyl lithium is reacted with 2,3-dibromofuran in ether at -70° C. according to the procedure of Zaluski et al. [Bull. soc. chim. Fr., p. 1843 (1970)] and Sornay et al. [loc. cit., p. 990 (1971)]. The reaction mixture is warmed to -20° C. and an equivalent of anhydrous alloxan in tetrahydrofuran is added dropwise. Reaction is allowed to proceed to completion by warming to room temperature for 2 hours. The product, 5-(3-bromo-2-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione is isolated according to the method of Example 5.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2,3-dibromofuran | BrC=1OC=CC1Br | C4H2Br2O
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(3-bromo-2-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione | BrC1=C(OC=C1)C1C(NC(NC1=O)=O)=O | C8H5BrN2O4
